US04567172
17α-Acetoxy-21-benzoyloxy-11β-hydroxy-6α-methyl-1,4-pregnadiene-3,20-dione
In 4 ml of methylene chloride was dissolved 208 mg of 17α-acetoxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione obtained according to the method described in Example 6. To this solution was added 202 mg of triethylamine, and the mixture was ice-cooled. Next, 140 mg of benzoyl chloride was directly added to the solution and the mixture was stirred for one hour. To the solution was further added 1 ml of methanol, and the mixture was stirred for one hour. The reaction liquid was concentrated under reduced pressure and the resultant residue was directly subjected to preparative thin layer chromatography (silica gel) for purification whereby 204 mg (yield: 78.5%) of the title compound was obtained as a colorless amorphous solid. The structure of this compound was confirmed by the following physical properties and results of various analyses:

reactant | 17α-acetoxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 208 mg | C(C)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C24H32O6
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 140 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methanol | 1 ml | CO | CH4O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 17α-Acetoxy-21-benzoyloxy-11β-hydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 204 mg, yield: 78.5% | C(C)(=O)O[C@]1(C(COC(C2=CC=CC=C2)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C31H36O7
